US05026859
PREPARATION OF DIMETHYL 5-FORMYLPYRIDINE-2,3-DICARBOXYLATE
A solution of dimethyl 5-dimethoxymethylpyridine-2,3-dicarboxylate (6.57 g, 0.024 mol) in 2N HCl (15 mL) and tetrahydrofuran (25 mL) is stirred at reflux temperature for 2 hours. The tetrahydrofuran is removed in vacuo, the aqueous solution is diluted with water (to 30 mL) and extracted with methylene chloride. The combined methylene chloride extracts are dried over anhydrous magnesium sulfate and concentrated in vacuo to yield the title compound (4.51 g, 82%) as a yellow solid, mp 75°-77° C., identified by IR and NMR spectral analyses.

reactant | dimethyl 5-dimethoxymethylpyridine-2,3-dicarboxylate | 0.024 mol, 6.57 g | COC(C=1C=C(C(=NC1)C(=O)OC)C(=O)OC)OC | C12H15NO6
solvent | HCl | 2N, 15 mL | Cl | ClH
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | DIMETHYL 5-FORMYLPYRIDINE-2,3-DICARBOXYLATE | 4.51 g, 82% | C(=O)C=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C10H9NO5
